US07495103B2
318; 4-Oxo-N-[3-[2-(1-piperidyl)ethylsulfonylamino]-5-(trifluoromethyl)phenyl]-1H-quinoline-3-carboxamide
A mixture of 4-oxo-N-[3-(trifluoromethyl)-5-(vinylsulfonamido)phenyl]-1,4-dihydroquinoline-3-carboxamide (50 mg, 0.11 mmol), piperidine (18 μL, 1.6 eq) and LiClO4 (20 mg, 1.7 eq) was suspended in a 1:1 solution of CH2Cl2:isopropanol (1.5 mL). The mixture was refluxed at 75° C. for 18 h. After this time, LCMS analysis showed >95% conversion to the desired product. The crude mixture was purified by reverse-phase HPLC to provide 4-oxo-N-[3-[2-(1-piperidyl)ethylsulfonylamino]-5-(trifluoromethyl)phenyl]-1H-quinoline-3-carboxamide (318) as a yellowish solid (15 mg, 25%). 1H-NMR (d6-Acetone, 300 MHz) δ 8.92 (br s, 1H), 8.4 (d, J=8.1 Hz, 1H), 8.05 (br s, 1H), 7.94 (br s, 1H), 7.78 (br s, 2H), 7.53-751 (m, 1H), 7.36 (br s, 1H), 3.97 (t, J=7.2 Hz, 2H), 3.66 (t, J=8 Hz, 2H), 3.31-3.24 (m, 6H), 1.36-1.31 (m, 4H); ESI-MS 481.1 m/z (MH+).

reactant | 4-oxo-N-[3-(trifluoromethyl)-5-(vinylsulfonamido)phenyl]-1,4-dihydroquinoline-3-carboxamide | 0.11 mmol, 50 mg | O=C1C(=CNC2=CC=CC=C12)C(=O)NC1=CC(=CC(=C1)NS(=O)(=O)C=C)C(F)(F)F | C19H14F3N3O4S
reactant | piperidine | 18 μL, 1.6 eq | N1CCCCC1 | C5H11N
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | isopropanol | 1.5 mL | C(C)(C)O | C3H8O
product | 4-Oxo-N-[3-[2-(1-piperidyl)ethylsulfonylamino]-5-(trifluoromethyl)phenyl]-1H-quinoline-3-carboxamide | O=C1C(=CNC2=CC=CC=C12)C(=O)NC1=CC(=CC(=C1)C(F)(F)F)NS(=O)(=O)CCN1CCCCC1 | C24H25F3N4O4S
